US05441971
The mixture of 5-(1-methoxymethoxyethyl)-2-methylpyridine (21.0 g) and formalin (37% aq. HCHO, 14.1 g) was heated at 150° to 160° C. for 8 hours in a sealed tube. The reaction mixture was concentrated under reduced pressure and then the residue was subjected to silica gel column chromatography. A fraction eluted with chloroform-methanol (25:1, v/v) gave 2-[5-(1-methoxymethoxyethyl)-2-pyridyl]ethanol (7.8 g, yield: 32%) as oil.

reactant | 5-(1-methoxymethoxyethyl)-2-methylpyridine | 21.0 g | COCOC(C)C=1C=CC(=NC1)C | C10H15NO2
reactant | formalin | 14.1 g | C=O | CH2O
product | 2-[5-(1-methoxymethoxyethyl)-2-pyridyl]ethanol | 7.8 g, yield: 32% | COCOC(C)C=1C=CC(=NC1)CCO | C11H17NO3
